US05591752
11-(2-Carboxyethylthio)-2-(5-chloro-6-fluoroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 329)
2-(5-Chloro-6-fluoroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine and 3-mercaptopropionic acid were used and reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 2-(5-Chloro-6-fluoroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | ClC1=C2C=CC(=NC2=CC=C1F)COC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C24H17ClFNO3
reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
product | 11-(2-Carboxyethylthio)-2-(5-chloro-6-fluoroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=C(C(=C3C=C2)Cl)F | C27H21ClFNO4S
